2116-01-18 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2116-1-18**] 04:20 AM
   MRSA screen
   Allergies:
   Thorazine (Oral) (Chlorpromazine Hcl)
   Rash;
   Penicillins
   lower extremity
   Last dose of Antibiotics:
   Vancomycin - [**2116-1-17**] 08:15 PM
   Ceftazidime - [**2116-1-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-1-17**] 10:00 PM
   Pantoprazole (Protonix) - [**2116-1-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-1-18**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 76 (72 - 99) bpm
   BP: 105/54(65) {90/42(54) - 168/87(140)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    501 mL
                                                                  1,460 mL
   PO:
                                                                     30 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    471 mL
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                  5,110 mL
                                                                  2,030 mL
   Urine:
                                                                  5,110 mL
                                                                  2,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,610 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 897 (369 - 897) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.32/65/86/34/4
   Ve: 4.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Dry, confused, climbing out of bed
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Poor dentition, dry mucous membranes, no
   thryromegaly
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes : bilateral
   expiratory), tachypnic
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): disoriented, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   186 K/uL
   12.8 g/dL
   140 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.3 mEq/L
   11 mg/dL
   94 mEq/L
   131 mEq/L
   36.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-1-17**]  10:38 AM
                             [**2116-1-17**]  01:08 PM
                             [**2116-1-17**]  04:47 PM
                             [**2116-1-17**]  05:55 PM
                             [**2116-1-18**]  03:19 AM
                             [**2116-1-18**]  04:07 AM
   WBC
   12.6
   9.4
   Hct
   40.2
   36.9
   Plt
   173
   186
   Cr
   0.6
   0.6
   0.6
   TCO2
   33
   35
   35
   Glucose
   105
   77
   140
   Other labs: PT / PTT / INR:13.6/30.5/1.2, Alk Phos / T Bili:/0.3,
   Amylase / Lipase:29/16, Differential-Neuts:94.9 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL,
   LDH:204 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   61F h/o COPD and CO2 retention, schizoaffective disorder presents with
   SOB.
   .
   # SOB: Likely COPD flare with possible underlying respiratory infection
   given wheezing, hypothermia, possible RLL infiltrate, and elevated WBC
   (had recently been on steroids but increased despite taper).
   Differential includes PE or cardiac but less likely given history and
   exam.
   - IV solumedrol 125mg q8h
   - Combivent nebs
   - Continue vanc/ceftaz/azithro until more data obtained
   - Sputum culture, legionella urine Ag, nasal viral swabs
   - Bair hugger for hypothermia, trend temperature
   - Repeat CXR in AM
   - Counsel on smoking cessation
   .
   # AMS: Chronic psych disorder (unclear baseline alhtough [**3-22**] d/c
   summary states A&Ox1-2) but acutely presumably due to hypercarbia from
   retention on NRB, now improved on BiPAP per ED but remains disoriented.
   Hyponatremia could be significant and infectious process or medications
   (antipsychotics, steroids) may also be contributing.
   - Maintain O2sat 88-90%
   - Treat infectious process per above and hyponatremia per below
   - Tox screens
   - f/u TSH and free T4
   - Hold antipsychotic medications for now
   .
   # Hyponatremia: Discharge Na 135, now 112 in ED. Likely hypovolemic
   given appears dry on exam, however may be spurious.
   - Repeat electrolytes now then Na Q2H until clear improvement
   - Check plasma and urine osmolality
   - Consider hypertonic saline to increase Na above 120 (rate less than
   0.5meq/hr), then transition to normal saline
   - Consider renal consult should not improve
   .
   # Schizoaffective disorder:  Hold outpatient medications for now until
   menstal status improves then restart chlordiazepoxide, promethazine,
   and topiramate.
   - Consider psych consult
   .
   # FEN: NPO until MS improves, replete 'lytes prn
   # PPX: heparin sc tid, PPI, bowel regimen
   # Access: PIVs
   # Code: FULL presumed
   # Dispo: deferred
   # Communication: niece [**Name (NI) 7291**] [**Name (NI) 1232**]
   [**Telephone/Fax (3) 7292**]
 IMPAIRED SKIN INTEGRITY
 DELIRIUM / CONFUSION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-1-17**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2116-01-18 09:02:00 Physician Attending Progress Note
Chief Complaint: resp distress, hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2116-1-18**] 04:20 AM
   MRSA screen
   Overnight Na rising to 134 - making massive dilute urine
   head CT without acute findings
   BIPAP on and off
   Allergies:
   Thorazine (Oral) (Chlorpromazine Hcl)
   Rash;
   Penicillins
   lower extremity
   Last dose of Antibiotics:
   Vancomycin - [**2116-1-17**] 08:15 PM
   Ceftazidime - [**2116-1-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-1-17**] 10:00 PM
   Pantoprazole (Protonix) - [**2116-1-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-1-18**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 76 (72 - 99) bpm
   BP: 105/54(65) {90/42(54) - 168/87(140)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    501 mL
                                                                  1,460 mL
   PO:
                                                                     30 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    471 mL
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                  5,110 mL
                                                                  2,030 mL
   Urine:
                                                                  5,110 mL
                                                                  2,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,610 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 897 (369 - 897) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.32/65/86/34/4
   Ve: 4.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: lying in bed, on neb, mild resp distress
   HEENT: o/p dry
   CV: RR
   Chest: inspi and exp wheezes
   ABd: soft NT + BS
   Ext: trace edema
   Neuro: alert, answering [**Last Name (un) **] ?s knows [**Last Name (LF) **], [**1-16**]^st, [**Location (un) 341**] but not
   year- asking to leave
   Labs / Radiology
   12.8 g/dL
   186 K/uL
   140 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.3 mEq/L
   11 mg/dL
   94 mEq/L
   131 mEq/L
   36.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-1-17**]  10:38 AM
                             [**2116-1-17**]  01:08 PM
                             [**2116-1-17**]  04:47 PM
                             [**2116-1-17**]  05:55 PM
                             [**2116-1-18**]  03:19 AM
                             [**2116-1-18**]  04:07 AM
   WBC
   12.6
   9.4
   Hct
   40.2
   36.9
   Plt
   173
   186
   Cr
   0.6
   0.6
   0.6
   TCO2
   33
   35
   35
   Glucose
   105
   77
   140
   Other labs: PT / PTT / INR:13.6/30.5/1.2, Alk Phos / T Bili:/0.3,
   Amylase / Lipase:29/16, Differential-Neuts:94.9 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL,
   LDH:204 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 DELIRIUM / CONFUSION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   61 yr old woman with recent admit for CXOPD exacerbation presents with
   hypothermia, hypoNa, and resp distress
   1.       COPD exacerbation requiring non invasive ventilation: DDX is
   flare in setting of LLL infiltrates. Will Rx with IV medrol, nebs,
   BIPAP. Vanco, Ceftaz, Azithro, check sputum cx and nasal aspirate,
   Legionella urine Ag neg
   2. .       HypoNa: Low serum and urine OSM, U NA less than 10
 DDX
   hypovolemia, cerebral salt wasting, adrenal crisis.
   DDx was dehydration with ingestion of sig amounts of hypotonic fluids,
   she has continued to put out massive dilute urine but has been
   correcting herself. Was given D5W overnight to prevent too acute a rise
   and now settled at 131.
   Repeat serum and urine Osm and urine Na and if stable allow to
   autocorrect. Get [**Year (4 digits) **] in to vosot and determine if this is close to
   her baseline. Doubt CPM if she is
   3. Psytch: restart psyc meds
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-1-17**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with [**Year (4 digits) **] to come in today
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2116-01-19 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2116-1-18**] 11:25 AM
   - mental status & electrolytes normalizing
   - Phos repleted  from 0.9
   - restarted psych meds
   - Episode of excessive coughing causing desaturation, resolved with
   nebs
   Allergies:
   Thorazine (Oral) (Chlorpromazine Hcl)
   Rash;
   Penicillins
   lower extremity
   Last dose of Antibiotics:
   Azithromycin - [**2116-1-18**] 09:26 AM
   Vancomycin - [**2116-1-18**] 08:54 PM
   Ceftazidime - [**2116-1-19**] 05:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-1-18**] 10:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-1-19**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37
C (98.6
   HR: 76 (62 - 92) bpm
   BP: 123/55(73) {92/34(49) - 157/80(96)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 84.2 kg
             Total In:
                                                                  4,608 mL
                                                                    648 mL
   PO:
                                                                  1,160 mL
             TF:
   IVF:
                                                                  3,448 mL
                                                                    648 mL
   Blood products:
   Total out:
                                                                  4,515 mL
                                                                  1,620 mL
   Urine:
                                                                  4,515 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     93 mL
                                                                   -972 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///33/
   Physical Examination
   General Appearance: Alert, sitting up breathing with facemask,
   interactive
   Eyes / Conjunctiva: PER, pink conjunctiva
   Head, Ears, Nose, Throat: Poor dentition, dry MM
   Cardiovascular: S1S2, RRR
   Respiratory / Chest: Exp wheezes, mild crackles bilat
   Abdominal: Soft, NT/ND, + BS:
   Musculoskeletal: MAE
   Skin:  WWP:
   Neurologic: AOX3, Follows simple commands, Responds to: Verbal stimuli
   Labs / Radiology
   186 K/uL
   12.8 g/dL
   206 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.9 mEq/L
   11 mg/dL
   94 mEq/L
   132 mEq/L
   36.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2116-1-17**]  10:38 AM
                             [**2116-1-17**]  01:08 PM
                             [**2116-1-17**]  04:47 PM
                             [**2116-1-17**]  05:55 PM
                             [**2116-1-18**]  03:19 AM
                             [**2116-1-18**]  04:07 AM
                             [**2116-1-18**]  03:44 PM
                             [**2116-1-18**]  10:08 PM
   WBC
   12.6
   9.4
   Hct
   40.2
   36.9
   Plt
   173
   186
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   33
   35
   35
   Glucose
   105
   77
   140
   141
   206
   Other labs: PT / PTT / INR:13.6/30.5/1.2, Alk Phos / T Bili:/0.3,
   Amylase / Lipase:29/16, Differential-Neuts:94.9 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL,
   LDH:204 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 DELIRIUM / CONFUSION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   61F h/o COPD and CO2 retention, schizoaffective disorder presents with
   SOB.
   .
   # SOB: Likely COPD flare with possible underlying respiratory infection
   given wheezing, hypothermia, possible RLL infiltrate, and elevated WBC
   (had recently been on steroids but increased despite taper).
   Differential includes PE or cardiac but less likely given history and
   exam.
   - IV solumedrol 125mg q8h for total of 72 hrs
   - Combivent nebs
   - Continue vanc/ceftaz/azithro until more data obtained
   - Sputum culture NGTD
 legionella, Flu negative
   - Bair hugger for hypothermia, trend temps
   - Repeat CXR in AM
   .
   # AMS: Chronic psych disorder (unclear baseline alhtough [**3-22**] d/c
   summary states A&Ox1-2) but acutely presumably due to hypercarbia from
   retention on NRB, now improved on BiPAP per ED but remains disoriented.
   Hyponatremia could be significant and infectious process or medications
   (antipsychotics, steroids) may also be contributing.
   - Maintain O2sat 88-90%
   - Treat infectious etiology and hyponatremia
   - find out mental baseline from niece
   - f/u TSH and free T4
 slightly low, not dramatic
   - Restart antipsychotics
   .
   # Hyponatremia: Discharge Na 135, now decreased, unclear of 112 or 120,
   repeats suggest closer to 120. Na up to 134 this AM.  Admin
ing free
   water to avoid rapid rise.  Diuresing ~200-400cc/hr. Dilute urine and
   serum osmol.
   - Repeat electrolytes now then Na Q2-4H
   - Cont few water drip, repeat urine lytes
   - Consider renal consult should urine not change in osmol.
   .
   # Schizoaffective disorder:  Restart now that mental status improved.
   - chlordiazepoxide, promethazine, and topiramate.
   - Consider psych consult if needed
   .
   # FEN: NPO until MS improves, replete 'lytes prn
   # PPX: heparin sc tid, PPI, bowel regimen
   # Access: PIVs
   # Code: FULL presumed
   # Dispo: deferred
   # Communication: niece [**Name (NI) 7291**] [**Name (NI) 1232**]
   [**Telephone/Fax (3) 7292**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-1-17**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2116-01-19 10:24:00 Physician Attending Progress Note
Chief Complaint: COPD exacerbation, hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2116-1-18**] 11:25 AM
   Resp Distress after refusing nebs but after neb felt better
   Allergies:
   Thorazine (Oral) (Chlorpromazine Hcl)
   Rash;
   Penicillins
   lower extremity
   Last dose of Antibiotics:
   Ceftazidime - [**2116-1-19**] 05:10 AM
   Azithromycin - [**2116-1-19**] 08:00 AM
   Vancomycin - [**2116-1-19**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-1-18**] 10:53 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-1-19**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 72 (62 - 92) bpm
   BP: 101/36(52) {92/34(49) - 157/80(96)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.7 kg (admission): 84.2 kg
             Total In:
                                                                  4,608 mL
                                                                  1,644 mL
   PO:
                                                                  1,160 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  3,448 mL
                                                                  1,244 mL
   Blood products:
   Total out:
                                                                  4,515 mL
                                                                  2,010 mL
   Urine:
                                                                  4,515 mL
                                                                  2,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     93 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   Gen: alert sitting in chair NAD
   HEENT: o/p clear
   CV: RR
   Ches: CTA bilat
   Abd: sof NT
   Ex: no edemat
   Neuro : alert conversant
   Labs / Radiology
   12.7 g/dL
   142 K/uL
   171 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.7 mEq/L
   11 mg/dL
   97 mEq/L
   134 mEq/L
   38.1 %
   13.4 K/uL
        [image002.jpg]
                             [**2116-1-17**]  10:38 AM
                             [**2116-1-17**]  01:08 PM
                             [**2116-1-17**]  04:47 PM
                             [**2116-1-17**]  05:55 PM
                             [**2116-1-18**]  03:19 AM
                             [**2116-1-18**]  04:07 AM
                             [**2116-1-18**]  03:44 PM
                             [**2116-1-18**]  10:08 PM
                             [**2116-1-19**]  08:52 AM
   WBC
   12.6
   9.4
   13.4
   Hct
   40.2
   36.9
   38.1
   Plt
   173
   186
   142
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   33
   35
   35
   Glucose
   105
   77
   140
   141
   206
   171
   Other labs: PT / PTT / INR:13.6/30.5/1.2, Alk Phos / T Bili:/0.3,
   Amylase / Lipase:29/16, Differential-Neuts:94.9 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL,
   LDH:204 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 DELIRIUM / CONFUSION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   61 yr old woman with recent admit for CXOPD exacerbation presents with
   hypothermia, hypoNa, and resp distress
   1.       COPD exacerbation requiring non invasive ventilation: DDX is
   flare in setting of LLL infiltrates. Will Rx with IV medrol, nebs,
   BIPAP. Vanco, Ceftaz, Azithro, check sputum cx and nasal aspirate,
   Legionella urine Ag neg
   2. .       HypoNa: Low serum and urine OSM, U NA less than 10
 DDX
   hypovolemia, cerebral salt wasting, adrenal crisis.
   DDx was dehydration with ingestion of sig amounts of hypotonic fluids,
   she has continued to put out massive dilute urine but has been
   correcting herself. Was given D5W overnight to prevent too acute a rise
   and now settled at 131.
   Repeat serum and urine Osm and urine Na and if stable allow to
   autocorrect. Get niece in to vosot and determine if this is close to
   her baseline. Doubt CPM if she is
   3. Psytch: restart psyc meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-1-17**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: